data/mechanisms/records/IMS8-EQ8.24d.json
{"mechanism_id": "IMS8-EQ8.24d", "species": [{"species_id": "chloronorbornanone_radical_cation", "mapped_smiles": "[CH:1]12[C:2](=[O+:8])[CH2:3][CH:4]([CH2:5][CH:6]1[Cl:9])[CH2:7]2", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "cyclopentenylacetyl_cation", "mapped_smiles": "[C:2](#[O+:8])[CH2:3][CH:4]1[CH2:5][CH:6]=[CH:1][CH2:7]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "chlorine_radical", "mapped_smiles": "[Cl:9]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["chloronorbornanone_radical_cation"]}, {"state_id": "state_products", "species_ids": ["cyclopentenylacetyl_cation", "chlorine_radical"]}], "steps": [{"step_id": "step_cl_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "skeletal_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [2, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 9]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 9]}, "target": {"type": "atom", "atom_maps": [9]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_cl_loss", "support_type": "textbook_proposed", "locator": {"page": 156, "equation": "8.24", "section": "Stereochemical control of Cl. loss from stereoisomeric chloronorbornanones (OE+. fragmentation)"}, "confidence": 0.75, "curator_note": "EI molecular-ion (OE+.) fragmentation. Equation 8.24 shows FOUR stereoisomeric chloro-bicyclo[2.2.1]heptan-2-one (chloronorbornanone) radical cations - panels (a) 80%, (b) 2%, (c) 14%, (d) 4% - all losing Cl. to a COMMON even-electron acylium ion drawn at the centre, (cyclopent-3-en-1-yl)acetyl cation [cyclopentenyl-CH2-C#O]+ (C7H9O+, m/z 109). This record is panel (d) (4% yield of the Cl-loss channel). The large spread of yields is the point of the figure: the fragmentation is STEREOCHEMICALLY controlled. STEREOCHEMISTRY IS NOT ENCODED in the mapped_smiles - panels (a)-(d) share the SAME constitution (Cl on the ring carbon C6 adjacent to the alpha-cleaving bridgehead C1) and differ only in endo/exo and syn/anti configuration, which a plain constitutional SMILES cannot capture. The four records therefore carry identical precursor/product SMILES and differ only in the printed yield and this note. MECHANISM (net, no H migration): the ionized carbonyl initiates alpha-cleavage of the C1-C2 ring bond to build the acylium C2#O8; the released radical relays to form the ring C1=C6 double bond while the C6-Cl bond homolyzes and Cl. departs. Net C7H9ClO+. -> C7H9O+ + Cl.. Book draws 0 electron-pushing arcs on panel (d) - only the chloroketone structure and the '-Cl. 4%' label. The electron-pushing mechanism is drawn once, on panel (a); all 5 encoded moves are carried over from panel (a) (reconstructed for electron balance)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": null, "precursor_mz": 144.0336, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_acylium", "species_id": "cyclopentenylacetyl_cation", "step_id": "step_cl_loss", "observed_mz": 109.0648, "relative_intensity": 0.04, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
